US05817830
Preparation of 2,5-bis(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)-3-trifluoromethylpyrrole.
Trifluoromethylzinc chloride is reacted with 3-bromo-2,5-bis(2,2,3,3,4,4,4-heptafluoro-1-trimethylsilyloxybutyl)pyrrole utilizing reaction and purification conditions described in Example 22.

reactant | Trifluoromethylzinc chloride | [Cl-].FC(F)(F)[Zn+]
reactant | 3-bromo-2,5-bis(2,2,3,3,4,4,4-heptafluoro-1-trimethylsilyloxybutyl)pyrrole | BrC1=C(NC(=C1)C(C(C(C(F)(F)F)(F)F)(F)F)O[Si](C)(C)C)C(C(C(C(F)(F)F)(F)F)(F)F)O[Si](C)(C)C | C18H22BrF14NO2Si2
product | 2,5-bis(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)-3-trifluoromethylpyrrole | FC(C(O[Si](C)(C)C)C=1NC(=CC1C(F)(F)F)C(C(C(C(F)(F)F)(F)F)(F)F)O[Si](C)(C)C)(C(C(F)(F)F)(F)F)F | C19H22F17NO2Si2
